US08084442B2
Synthesis of 3(S)-[(3-chloro-4-cyanophenyl)-(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester
To an anhydrous toluene solution containing 3(S)-[(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.6 mmol) and 2-chloro-4-fluorobenzonitrile (0.30 g, 1.9 mmol) was added a 1.45 ml tetrahydrofuran solution containing sodium bis(trimethylsilyl)amide (1.1 M) using a syringe. The mixture was heated under reflux under a nitrogen atmosphere for 8 hours and cooled to room temperature. Water was added to the reaction solution, and extraction with diethyl ether was conducted. After drying over sodium sulfate and concentration under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 0.56 g of white amorphous solid 3(S)-[(3-chloro-4-cyanophenyl)-(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3(S)-[(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 1.6 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC(=C(C=C1)F)Cl | C15H20ClFN2O2
reactant | 2-chloro-4-fluorobenzonitrile | 1.9 mmol, 0.30 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | sodium bis(trimethylsilyl)amide | 1.1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | tetrahydrofuran | 1.45 ml | O1CCCC1 | C4H8O
product | 3(S)-[(3-chloro-4-cyanophenyl)-(3-chloro-4-fluorophenyl)amino]pyrrolidine-1-carboxylic acid tert-butyl ester | 0.56 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(C1=CC(=C(C=C1)F)Cl)C1=CC(=C(C=C1)C#N)Cl | C22H22Cl2FN3O2
